US04166813
2,2-Bis[4-{2-hydroxy-3-[(1,2,2,6,6-pentamethyl-4-piperidyl)amino]propoxy}phenyl]propane (Compound No. 17)
To 100 ml of methanol were added 12 g of 4-amino-1,2,2,6,6-pentamethylpiperidine and 11 g of 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane; the mixture was then reacted in a similar manner to that described in Example 1, giving the desired compound in the form of white crystals melting at 141°-143° C. The compound had an Rf value of 0.64 on thin layer chromatography on silica gel developed with a 1:3:1 by volume mixture of methanol, ethyl acetate and triethylamine.

reactant | 4-amino-1,2,2,6,6-pentamethylpiperidine | 12 g | NC1CC(N(C(C1)(C)C)C)(C)C | C10H22N2
reactant | 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane | 11 g | O1C(COC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OCC2CO2)C1 | C21H24O4
solvent | methanol | 100 ml | CO | CH4O
product | 2,2-Bis[4-{2-hydroxy-3-[(1,2,2,6,6-pentamethyl-4-piperidyl)amino]propoxy}phenyl]propane | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CNC1CC(N(C(C1)(C)C)C)(C)C)O)CNC1CC(N(C(C1)(C)C)C)(C)C | C41H68N4O4
